US05036064
1.1 g of 5-methylpyrazolo[1,5-a]pyrimidine-7-thiol and 1.80 g of (7R)-7-aminocephalosporanic acid were stirred for 1 hour in 18 ml of a 20 percent solution of boron trifluoride in acetonitrile. The reaction mixture was concentrated, the residue was taken up in 15 ml of water, and the pH was adjusted to 2.5 with 2N sodium hydroxide solution. The precipitated product was filtered off under suction and dried. There was obtained (6R,7R)-7-amino-3-[[(5-methylpyrazolo[1,5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo4.2.0]oct-2-ene-2-carboxylic acid.

reactant | 5-methylpyrazolo[1,5-a]pyrimidine-7-thiol | 1.1 g | CC1=NC=2N(C(=C1)S)N=CC2 | C7H7N3S
reactant | (7R)-7-aminocephalosporanic acid | 1.80 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | acetonitrile | C(C)#N | C2H3N
product | oct-2-ene-2-carboxylic acid | CC(=CCCCCC)C(=O)O | C9H16O2
